US07964732B2
(S)-N-((R)-1-(5-chloro-1-methyl-1H-pyrazol-4-yl)ethyl)-2-methylpropane-2-sulfinamide
(S,E)-N-((5-chloro-1-methyl-1H-pyrazol-4-yl)methylene)-2-methylpropane-2-sulfinamide(750 mg, 3.03 mmol) was dissolved in THF (25 ml) placed under nitrogen and cooled to −78° C. 1.4M methyl magnesium bromide solution (toluene:THF 3:1, 8.65 ml, 12.1 mmol) was added dropwise and reaction stirred overnight while warming to room temperature. Saturated aqueous ammonium chloride solution (20 ml) was added to the reaction and stirred for 5 minutes. The product was extracted with EtOAc (2×15 ml), combined organics were washed with brine (15 ml), dried over Na2SO4, filtered and concentrated to furnish the title product as a brown gum (690 mg, 86.4% yield). 1H NMR (400 MHz, CDCl3) 1.18-1.19 (9H s) 1.55-1.57 (3H d) 1.62-1.64 (3H s) 3.20-3.22 (1H d) 4.41-4.47 (1H q) 7.42 (1H s) MS (ESI) m/z 264 (M+H)+

reactant | (S,E)-N-((5-chloro-1-methyl-1H-pyrazol-4-yl)methylene)-2-methylpropane-2-sulfinamide | 3.03 mmol, 750 mg | ClC1=C(C=NN1C)\C=N\[S@@](=O)C(C)(C)C | C9H14ClN3OS
reactant | methyl magnesium bromide | 12.1 mmol, 1.4M, 8.65 ml | C[Mg]Br
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | (S)-N-((R)-1-(5-chloro-1-methyl-1H-pyrazol-4-yl)ethyl)-2-methylpropane-2-sulfinamide | 690 mg, 86.4% yield | ClC1=C(C=NN1C)[C@@H](C)N[S@@](=O)C(C)(C)C | C10H18ClN3OS
